US04620865
A solution of 3.5 g of 5-chloro-1-phenyl-1H-pyrazole-4-carboxylic acid, ethyl ester and 20 ml of 40% aqueous methylamine in 20 ml DMF was stirred at room temperature for about 45 hours. Thin layer chromatography showed mostly starting material so an additional 10 ml of 40% aqueous methylamine was added to the reaction mixture which was stirred for an additional 5 days. The reaction mixture was poured into ice water and the precipitated solid was collected by filtration. After drying, the solid was recrystallized from toluene to afford 2.3 g of 5-chloro-1-phenyl-N-methyl-1H-pyrazole-4-carboxamide. Yield 70%. mp=182°-183° C.

reactant | 5-chloro-1-phenyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 3.5 g | ClC1=C(C=NN1C1=CC=CC=C1)C(=O)OCC | C12H11ClN2O2
reactant | methylamine | 20 ml | CN | CH5N
reactant | methylamine | 10 ml | CN | CH5N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-phenyl-N-methyl-1H-pyrazole-4-carboxamide | 2.3 g, Yield 70% | ClC1=C(C=NN1C1=CC=CC=C1)C(=O)NC | C11H10ClN3O
